US07361687B2
N-(2-cyanoethyl)-N-methyl-2-(trifluoromethyl)benzenesulphonamide
In operating analogously to Preparation V, starting with 2-(trifluoromethyl)benzenesulphonyl chloride and 3-(methylamino)propionitrile, the expected product is obtained as a yellow oil (yield=98%).

reactant | 2-(trifluoromethyl)benzenesulphonyl chloride | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | 3-(methylamino)propionitrile | CNCCC#N | C4H8N2
product | N-(2-cyanoethyl)-N-methyl-2-(trifluoromethyl)benzenesulphonamide | C(#N)CCN(S(=O)(=O)C1=C(C=CC=C1)C(F)(F)F)C | C11H11F3N2O2S
